US04665179
36 g of sodium 2-chloro-5-nitrobenzenesulphinate, 12.6 g of solid sodium hydrogen carbonate and 22.5 g of maleic anhydride are heated at 100° C. in 250 ml of water for 3 hours. After cooling down, a further 12.6 g of sodium hydrogencarbonate and 22.5 g of maleic anhydride are then added. After a further 5 hours of stirring at 100° C., the cooled, weakly acid reaction mixture is filtered with suction. The filter is cake at 50° C. in 300 ml of water, and the suspension is cooled down to 20° C. and is filtered again with suction. Drying gives 35.1 g of 3-(2-chloro-5-nitrophenylsulphonyl)-propionic acid.

reactant | sodium 2-chloro-5-nitrobenzenesulphinate | 36 g | ClC1=C(C=C(C=C1)[N+](=O)[O-])S(=O)[O-].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | maleic anhydride | 22.5 g | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | sodium hydrogencarbonate | 12.6 g | C(O)([O-])=O.[Na+]
reactant | maleic anhydride | 22.5 g | C1(\C=C/C(=O)O1)=O | C4H2O3
solvent | water | 250 ml | O | H2O
product | 3-(2-chloro-5-nitrophenylsulphonyl)-propionic acid | 35.1 g | ClC1=C(C=C(C=C1)[N+](=O)[O-])S(=O)(=O)CCC(=O)O | C9H8ClNO6S
